US06204279B1
(D) N-Boc-2-[(1R)-1-amino-3-phenylpropyl]-4-oxazolecarboxylic Acid
A solution of methyl N-Boc-2-[(1R)-1-amino-3-phenylpropyl]4-oxazolecarboxylate (388 mg) and potassium carbonate (1.5 g) in 90% methanol/water (10 mL) is brought to gentle reflux for 40 min. The reaction mixture is cooled, water is added and extracted thrice with ethyl acetate. The aqueous layer is acidified to pH 3 and extracted three times with ethyl acetate. The combined organic layer is washed twice with brine, dried (Na2SO4) and concentrated. The crude title product (372 mg) was >95% pure by NMR: 1H NMR (400 MHz, CDCl3) δ1.41 (s, 9H), 2.18 (m, 1H), 2.22 (m, 1H), 2.69 (m, 2H), 5.01 (m, 1H), 5.88 (bs, 1H, NH), 7.16 (m, 3H), 7.23 (m, 2H), and 8.01 (s, 1H).

reactant | methyl N-Boc-2-[(1R)-1-amino-3-phenylpropyl]4-oxazolecarboxylate | 388 mg | C(=O)(OC(C)(C)C)N1C(OC=C1C(=O)OC)[C@@H](CCC1=CC=CC=C1)N | C19H26N2O5
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol water | 10 mL | CO.O
product | N-Boc-2-[(1R)-1-amino-3-phenylpropyl]-4-oxazolecarboxylic Acid | C(=O)(OC(C)(C)C)N1C(OC=C1C(=O)O)[C@@H](CCC1=CC=CC=C1)N | C18H24N2O5
